US05495020
To ethyl 6-methyl-2,3,4,5-tetrafluorobenzoylacetate (4.20 g) are added acetic anhydride (3.7 g) and ethyl orthoformate (4 ml) and the mixture is refluxed for 1 hour. After concentrating, ethyl 2-(6-methyl-2,3,4,5-tetrafluorobenzoyl)-3-ethoxyacrylate (5 g) is obtained.

reactant | ethyl 6-methyl-2,3,4,5-tetrafluorobenzoylacetate | 4.20 g | CC1=C(C(=C(C(=C1C(=O)CC(=O)OCC)F)F)F)F | C12H10F4O3
reactant | acetic anhydride | 3.7 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl orthoformate | 4 ml | C(OCC)([O-])[O-]
product | ethyl 2-(6-methyl-2,3,4,5-tetrafluorobenzoyl)-3-ethoxyacrylate | 5 g | CC1=C(C(=C(C(=C1C(=O)C(C(=O)OCC)=COCC)F)F)F)F | C15H14F4O4
